US08008506B2
6-Hydroxyindazole-3-carboxylic acid
6-Methoxyindazole-3-carboxylic acid (1.015 g; manufactured by ChemPacific Corp.) was dissolved in hydrobromic acid (52 mL; manufactured by Kanto Chemical Co., Inc.), and the solution was stirred overnight at reflux. The solution was cooled to room temperature, and then the loss of raw materials and the presence of the title compound were confirmed using LCMS. The solvent was evaporated under reduced pressure, and thus a crude product (1.504 g) of the title compound was obtained.

reactant | 6-Methoxyindazole-3-carboxylic acid | 1.015 g | COC1=CC=C2C(=NNC2=C1)C(=O)O | C9H8N2O3
solvent | hydrobromic acid | 52 mL | Br | BrH
product | 6-Hydroxyindazole-3-carboxylic acid | OC1=CC=C2C(=NNC2=C1)C(=O)O | C8H6N2O3
